US07304064B2
1-{[1-(Cyclohexylmethyl)-5-fluoro-1H-indol-3-yl]carbonyl}-4-ethylpiperazine, hydrochloride salt
To a solution of 1-(cyclohexylmethyl)-5-fluoroindole (208 mg, 0.9 mmol) in 1,1,2,2-tetrachloroethane (15 ml) at 0° C., was added oxalyl chloride (0.122 ml, 0.945 mmol) with stirring under a stream of nitrogen. The mixture was allowed to warm to room temperature over 1 hour, then heated to 120° C. for a further 1.5 hours. The mixture was cooled to room temperature and triethylamine (0.138 ml, 0.99 mmol) was added. Stirring was continued for a further 10 minutes before the addition of N-ethylpiperazine (0.125 ml, 0.99 mmol). The mixture was stirred at room temperature for 15 hours and then partitioned between 0.4 M sodium hydroxide solution (10 ml) and dichloromethane (10 ml). The organic layer was washed with water (10 ml), dried over Na2SO4 and concentrated. The resulting brown oil was purified by flash chromatography using 95% dichloromethane, 5% methanol as eluent to yield the title compound as the free base.

reactant | 1-(cyclohexylmethyl)-5-fluoroindole | 0.9 mmol, 208 mg | C1(CCCCC1)CN1C=CC2=CC(=CC=C12)F | C15H18FN
reactant | oxalyl chloride | 0.945 mmol, 0.122 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.99 mmol, 0.138 ml | C(C)N(CC)CC | C6H15N
reactant | N-ethylpiperazine | 0.99 mmol, 0.125 ml | C(C)N1CCNCC1 | C6H14N2
solvent | 1,1,2,2-tetrachloroethane | 15 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 1-{[1-(Cyclohexylmethyl)-5-fluoro-1H-indol-3-yl]carbonyl}-4-ethylpiperazine, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC(=CC=C12)F)C(=O)N1CCN(CC1)CC | InChI=1S/C22H30FN3O.ClH/c1-2-24-10-12-25(13-11-24)22(27)20-16-26(15-17-6-4-3-5-7-17)21-9-8-18(23)14-19(20)21;/h8-9,14,16-17H,2-7,10-13,15H2,1H3;1H
